* source LIGHTML
I_I5         0 N58193  DC 0Adc AC 0Aac
+PULSE 200n 700n+200n  0 0.01n 0.01n 0.1n 100n
C_C3         0 N58193  15f  TC=0,0 
R_R4         0 N58193  500k TC=0,0 
V_Vref3         N59845 0 1
X_U2         N62154 N59845 0 N65801 N59717 N59737 
+ N59649 N59653 N59685 N59705 N59721 N59733 N59741 N59761 $G_DPWR $G_DGND
+  ADC8break 
+ PARAMS: MNTYMXDLY=0 IO_LEVEL=0
V_V16         N60586 0  
+PULSE 0 1 5n 0.01n 0.01n 1u 2u
R_R6         0 N60586  500k TC=0,0 
V_V17         N60884 0  
+PULSE 0 4.5 50n 0.01n 0.01n 50n 100n
X_S3    N62334 0 N65718 N62154 SCHEMATIC1_S3 
V_V18         N62334 0  
+PULSE 0 1 100n 0.01n 0.01n 100n 200n
I_I8         N64464 0 DC 0Adc AC 0Aac
+PULSE 100nA 700nA 0 0 0 0.1ns 0.2ns
C_C7         N65718 0  15fF IC=0 TC=0,0 
R_R13         N64464 0  200000k TC=0,0 
I_I9         0 N64464 DC 0Adc AC 0Aac
+PULSE 200nA 400nA 0 0 0 0.1ns 0.2ns
X_U10         N60884 N65801 $G_DPWR $G_DGND BUF
R_R14         N64464 N65718  500 TC=0,0 

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 Sbreak
RS_S3         1 2 1G
.ends SCHEMATIC1_S3
